US08685975B2
To a mixture of 5-bromo-2,3-dimethoxybenzonitrile (0.958 g, 4.0 mmol), 2-furylboronic acid (0.53 g, 4.7 mmol), dioxane (24 mL), H2O (8 mL) and Na2CO3 (1.1 g, 10.4 mmol) was added tetrakis(triphenylphosphine)palladium (0.23 g, 0.2 mmol). The mixture was degassed by alternately putting under house vacuum and argon three times for several minutes each then heated at 85° C. under argon for 16.5 hrs. After cooling to room temperature, the mixture was diluted with H2O and extracted with EtOAc. The combined organics were washed with H2O and brine, dried over Na2SO4 and concentrated in vacuo. Purification by chromatography (0-20% EtOAc-hexanes) provided 5-(furan-2-yl)-2,3-dimethoxybenzonitrile as a white solid (0.85 g, 94% yield).

reactant | 5-bromo-2,3-dimethoxybenzonitrile | 4.0 mmol, 0.958 g | BrC=1C=C(C(=C(C#N)C1)OC)OC | C9H8BrNO2
reactant | 2-furylboronic acid | 4.7 mmol, 0.53 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | dioxane | 24 mL | O1CCOCC1 | C4H8O2
reactant | Na2CO3 | 10.4 mmol, 1.1 g | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.2 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 8 mL | O | H2O
product | 5-(furan-2-yl)-2,3-dimethoxybenzonitrile | 0.85 g, 94% yield | O1C(=CC=C1)C=1C=C(C(=C(C#N)C1)OC)OC | C13H11NO3
